US07176242B2
N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propyl}-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide hydrochloride
N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propyl}-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide (180 mg, 0.27 mmol) is dissolved in diethyl ether (5 mL) and 1N hydrochloric acid in diethyl ether (2 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 663.3 [M+H]+.

reactant | N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propyl}-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide | 0.27 mmol, 180 mg | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)C(C)C)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C=2SC=CN2)=O)C=C(C1)F | C37H44F2N4O3S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propyl}-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide hydrochloride | Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)C(C)C)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C=2SC=CN2)=O)C=C(C1)F | InChI=1S/C37H44F2N4O3S.ClH/c1-5-11-43(12-6-2)37(46)30-19-28(18-29(20-30)36-41-10-13-47-36)35(45)42-33(17-26-15-31(38)21-32(39)16-26)34(44)23-40-22-25-8-7-9-27(14-25)24(3)4;/h7-10,13-16,18-21,24,33-34,40,44H,5-6,11-12,17,22-23H2,1-4H3,(H,42,45);1H/t33-,34+;/m0./s1
